Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old F, history of rheumatoid arthritis on
cyclosporine, azathioprine, hydroxychloroquine, who presents 
with
fever for the last 3 days. Patient has been experiencing fevers
for past 3 days at home, which have been recorded up to 103 °F.
She has reduced p.o. intake, worsened chronic abdominal pain
(described below) and shortness of breath with fevers. Fevers 
are
responsive to Tylenol. Of note, patient fever curve has been
downtrending for past 3 days measured at 103, 101, 100
(approximately) each day. Denies cough, sputum, urinary
frequency, dysuria, myalgias, rash however endorses dyspnea on
exertion. ROS otherwise notable for weight loss, specifically
being down from  144 lbs from 155 ___ years ago as well as
worsening of chronic abdominal pain as described below:

Patient has been experiencing RUQ pain for approximately ___ year.
Reports the pain is epigastric, 5 out of 10 in severity,
associated with food approximately ___ hours after eating, no
bowel movement association, improved with Tylenol. Patient has
been seeing outpt GI, who prescribed omeprazole BID regimen with
little clinical improvement.  Travel history notable for trip to
___ six months ago. Has hx of H pylori, however, recent EGD in
___ was unremarkable. Patient was ordered for outpatient
RUQUS and CT A/P which were completed prior to presentation in
the ED earlier today. 

 
Past Medical History:
Rheumatoid Arthritis: Diagnosed ___ years ago, previously on
methotrexate, transitioned to azathioprine in ___ of this
year. 
 
Social History:
___
Family History:
There is a family history of osteoporosis, asthma, and renal 
disease as well as history of arthritis and thyroid disease.  
Her husband recently diagnosed with H. pylori infection as well 
as gastric cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.7' BP: 115/65; HR: 67; O2: 99
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. EOMI
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally.  No increased work of
breathing..
ABDOMEN: Normal bowels sounds, non distended, mild epigastric
tenderness appreciated
EXTREMITIES: WWP, no edema
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3.

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 1151)
    Temp: 98.4 (Tm 98.7), BP: 100/64 (100-121/62-70), HR: 67
(65-67), RR: 20 (___), O2 sat: 97% (97-99), O2 delivery: RA,
Wt: 142.64 lb/64.___ Temp: 98.7 PO 
___ 2327 Temp: 97.7 PO 
___ 0718 Temp: 98.3 PO 
___ 1151 Temp: 98.4 PO

GEN: NAD
HEENT: NO LAD
CV: rrr, no g/m/r
PULM: CTAB, no wheeze, no crackles
ABD: bowel sounds present, TTP over the epigastrium, no rebound,
no guarding
EXT: WWP, 2+ radial pulses
DERM: No rashes. 

 
Pertinent Results:
ADMISSION LABS
___ 03:00PM BLOOD WBC-2.8* RBC-4.37 Hgb-13.9 Hct-41.6 
MCV-95 MCH-31.8 MCHC-33.4 RDW-13.2 RDWSD-46.0 Plt ___
___ 03:00PM BLOOD Neuts-54.1 ___ Monos-7.8 
Eos-11.3* Baso-0.7 Im ___ AbsNeut-1.53* AbsLymp-0.72* 
AbsMono-0.22 AbsEos-0.32 AbsBaso-0.02
___ 03:00PM BLOOD Glucose-129* UreaN-13 Creat-0.9 Na-135 
K-4.1 Cl-102 HCO3-20* AnGap-13
___ 12:05PM BLOOD ALT-195* AST-144* AlkPhos-203* Amylase-68 
TotBili-0.4
___ 03:00PM BLOOD calTIBC-274 TRF-211
___ 03:00PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 11:12AM BLOOD Cyclspr-<30*
___ 03:00PM BLOOD HCV Ab-NEG

DISCHARGE LABS
___ 10:20AM BLOOD WBC-3.2* RBC-4.67 Hgb-14.6 Hct-44.6 
MCV-96 MCH-31.3 MCHC-32.7 RDW-13.5 RDWSD-46.9* Plt ___
___ 10:20AM BLOOD Neuts-45.1 ___ Monos-6.3 Eos-5.3 
Baso-0.9 Im ___ AbsNeut-1.43* AbsLymp-1.34 AbsMono-0.20 
AbsEos-0.17 AbsBaso-0.03
___ 10:20AM BLOOD Glucose-124* UreaN-10 Creat-0.8 Na-140 
K-4.8 Cl-105 HCO3-26 AnGap-9*
___ 10:20AM BLOOD ALT-127* AST-40 LD(LDH)-208 AlkPhos-178* 
TotBili-0.3

IMAGING
___ RUQ US 
1. Bilateral renal peripelvic cysts with no hydronephrosis. 
2. No cholelithiasis, intra or extrahepatic biliary ductal 
dilation. 

___ CT ABD & PELV 
1. No etiology for the patient's pain identified.  No evidence 
of inflammatory bowel disease or obstruction 
2. 5 mm noncalcified lung nodule.  CT follow-up in 12 months in 
a high risk patient can be considered 
  
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommended in a high-risk patient. 

 
Brief Hospital Course:
ADMISSION 
=========
___ F w/ rheumatoid arthritis on cyclosporine, azathioprine, and 
hydroxychloroquine, presenting with fever, epigastric pain and 
elevated transaminases.

ACUTE ISSUES
============
# Azathioprine Adverse Effect 
# Fever
# Transaminitis
Prior to admission, patient had home T-max of 103, one day of 
night sweats and nasal congestion. During her hospital course, 
she was afebrile, normotensive and non-tachycardic. She had 
recently started azathioprine at her last outpatient 
rheumatology appointment with Dr. ___ on ___ 
and was meant to follow-up with outpatient labs. Her symptoms 
and labs were felt to be consistent with a viral infection 
(EBV,CMV). Azathioprine was held on admission, WBC count 
uptrended and she remained hemodynamically stable with no 
signs/symptoms of infection. She will be written for outpatient 
labs, and is to follow-up with ___ Rheumatology on ___ at 
which time her RA regimen can be discussed. 

# Leukopenia
Suspect this is related to her azathioprine toxicity which 
possibly predisposed her to infection. Improved after holding 
azathioprine. Will discharge her off of azathioprine with plans 
to follow up with repeat labs and rheum follow up as outpatient. 


# Relative ___
She presented with a lymphopenia with relative eosinophilic 
predominance. Her eosinophilia was mild; and absolute eos were 
not elevated above standard range. She has several risk factors 
for helminth infection (international travel, suppression), and 
if differential continues to be abnormal, would recommend 
checking for strongyloides or other parasitic infections endemic 
to ___. 

# Abdominal pain
She presented with abdominal pain that was chronic. CT A/P as 
well as RUQ US was unrevealing for any structural abnormality to 
explain her symptoms. She had a recent EGD ___ that showed an 
irregular z-line but otherwise no concerning features. Abdominal 
pain stable and patient able to tolerate po intake. 

CHRONIC ISSUES
==============
#Osteoporosis
-Continue alendronate 70 mg weekly

#RA
- Hold azathioprine 50 mg daily
- Cont hydroxychloroquine 200 

TRANSITIONAL ISSUES
===================
[] Follow-up in 1 week for LFTs and CBC w/ differential
[] Follow-up with ___ Rheumatology re: restarting azathioprine
[] If eosinophilia/transaminitis persists, would check for 
alternative infectious etiologies including strongyloides.

#CODE: Full 
#CONTACT: ___ 
#DISPO: Medicine, likely d/c tomorrow
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Alendronate Sodium 70 mg PO Frequency is Unknown 
2. AzaTHIOprine 50 mg PO DAILY 
3. Hydroxychloroquine Sulfate 200 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Vitamin D ___ UNIT PO DAILY 
6. CycloSPORINE (Sandimmune) Dose is Unknown  PO Q12H 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO 1X/WEEK (___)  
2.  Hydroxychloroquine Sulfate 200 mg PO BID  
3.  Omeprazole 20 mg PO BID  
4.  Vitamin D ___ UNIT PO DAILY  
5.Outpatient Lab Work
ICD10 Drug Reaction (T50.905A)
AST, ALT, AlkPhos, CBC w/ Diff
Fax results to: 
ATTN: Dr.  ___ MD, ___ 
___  ___ 
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Viral Infection 
#Drug Adverse Effect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You were admitted to the hospital because you had fevers and 
abnormal blood labs

What happened you were in the hospital?
- We stopped one of your medications, azathioprine. Your 
Rheumatologist will help you decide whether to restart this. 

What should you do once you leave the hospital?
- Take all of your medications as prescribed. 
- Make sure to follow up with your primary care doctor. 
- Make sure to follow up with your rheumatologist.
- STOP taking the azathioprine. Do not resume until you are told 
so by a doctor. 

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___